US05856330
Preparation of 1-(5-hydroxy-5-methylhexyl)-3-methyl-7-propylxanthine
22.4 g (0.3 mol) of methylmagnesium chloride in the form of a 20% strength solution in tetrahydrofuran are added dropwise with vigorous stirring at room temperature to a suspension of 61.3 g (0.2 mol) of 3-methyl-1-(5-oxohexyl)-7-propylxanthine in 2 l of anhydrous ether, the internal temperature rising to approximately 30° C. The mixture is then warmed with stirring and under reflux for 2 hours, treated with saturated aqueous ammonium chloride solution to decompose the alkoxide formed, and the organic phase is separated off and washed twice with 500 ml of water each time. The collected water phases are extracted thoroughly with dichloromethane again. The dichloromethane extract is combined with the ethereal phase, dried over sodium sulfate, filtered and evaporated under reduced pressure, 59.0 g of crude product (91.5% of theory) being obtained, which is purified by recrystallization from diisopropyl ether.

reactant | methylmagnesium chloride | 0.3 mol, 22.4 g | C[Mg]Cl
reactant | 3-methyl-1-(5-oxohexyl)-7-propylxanthine | 0.2 mol, 61.3 g | CN1C(N(C(C=2N(C=NC12)CCC)=O)CCCCC(C)=O)=O | C15H22N4O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 2 l | CCOCC | C4H10O
product | 1-(5-hydroxy-5-methylhexyl)-3-methyl-7-propylxanthine | OC(CCCCN1C(=O)N(C=2N=CN(C2C1=O)CCC)C)(C)C | C16H26N4O3
